US07598391B2
1,1-Dicyclohexyl-3-[5-(pyridin-2-yl sulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (E) using 3-(5-bromo-thiazol-2-yl)-1,1-dicyclohexyl-urea and 2-mercaptopyridine.

reactant | 3-(5-bromo-thiazol-2-yl)-1,1-dicyclohexyl-urea | BrC1=CN=C(S1)NC(N(C1CCCCC1)C1CCCCC1)=O | C16H24BrN3OS
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | 1,1-Dicyclohexyl-3-[5-(pyridin-2-yl sulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC1=NC=CC=C1)C1CCCCC1 | C21H28N4OS2
